US04929613
4-(4-Bromo-2,5-difluorophenyl)-1-methyl-4-piperidinol.
A solution of 2.72 g (10 mmoles) of 1,4-dibromo-2,5-difluorobenzene in 50 ml of ethyl ether, under an argon atmosphere stirred at -75° C., was treated dropwise with 4.2 ml of 2.5 M n-butyl lithium (hexane solution). The mixture was treated dropwise with a solution of 1.20 g (10.6 mmoles) of N-methyl-4-piperidone in 10 ml of ethyl ether, stirred a further 0.75 hours at -75° C., let warm to -30° C., and poured into a solution of 0.56 g (10.5 mmoles) ammonium chloride in 15 ml of water. The ether layer was washed with two 10 ml portions of water, dried (MgSO4), and evaporated to give 2.85 g of crude product which was purified by chromatography on a column of silica gel and crystallized to give 1.30 g of the title compound; mp 133°-135° C.

reactant | 1,4-dibromo-2,5-difluorobenzene | 10 mmoles, 2.72 g | BrC1=C(C=C(C(=C1)F)Br)F | C6H2Br2F2
reactant | n-butyl lithium | 2.5 M, 4.2 ml | C(CCC)[Li]
reactant | N-methyl-4-piperidone | 10.6 mmoles, 1.20 g | CN1CCC(CC1)=O | C6H11NO
reactant | ammonium chloride | 10.5 mmoles, 0.56 g | [Cl-].[NH4+]
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 15 ml | O | H2O
product | 4-(4-Bromo-2,5-difluorophenyl)-1-methyl-4-piperidinol | 1.30 g | BrC1=CC(=C(C=C1F)C1(CCN(CC1)C)O)F | C12H14BrF2NO
